US09029392B2
7-Fluoro-8-methyl-2-(2-methylpyridin-3-yl)quinoline-3-carbaldehyde
A mixture of 2-chloro-7-fluoro-8-methylquinoline-3-carbaldehyde (8.0 g, 35.77 mmol), 2-methylpyridin-3-ylboronic acid pinacol ester (9.58 g, 39.35 mmol), tetrakis-(triphenylphosphine)palladium(0) (207 mg, 18 mmol) and Na2CO3 (5.69 g, 53.66 mmol) in water (50 mL) and DME (100 mL) was degassed and flushed three times with nitrogen gas, then heated at 90° C. for 24 h. The mixture was allowed to cool to room temperature. The reaction mixture was diluted with DCM (150 mL) and washed with water (150 mL). The aqueous phase was extracted with DCM (2×100 mL) and the combined organic fractions were washed with brine (150 mL), then dried (phase separator) and evaporated in vacuo. The crude material was triturated in hexane (50 mL), then the solid was filtered off and dried under vacuum to give the title compound (9.07 g, 90%) as a pale yellow solid. δH (DMSO-d6) 9.94 (s, 1H), 9.09 (1H, s), 8.61 (dd, J 4.9, 1.7 Hz, 1H), 8.26 (dd, J 8.9, 6.4 Hz, 1H), 7.78 (dd, J 7.7, 1.7 Hz, 1H), 7.69 (t, J 9.2 Hz, 1H), 7.40 (dd, J 7.7, 4.9 Hz, 1H), 2.61 (d, J 2.4 Hz, 3H), 2.34 (s, 3H). LCMS (ES+) 281 (M+H)+, RT 2.26 minutes.

reactant | 2-chloro-7-fluoro-8-methylquinoline-3-carbaldehyde | 35.77 mmol, 8.0 g | ClC1=NC2=C(C(=CC=C2C=C1C=O)F)C | C11H7ClFNO
reactant | 2-methylpyridin-3-ylboronic acid pinacol ester | 39.35 mmol, 9.58 g | CC1=NC=CC=C1B1OC(C)(C)C(C)(C)O1 | C12H18BNO2
reactant | Na2CO3 | 53.66 mmol, 5.69 g | C(=O)([O-])[O-].[Na+].[Na+]
solvent | water | 50 mL | O | H2O
solvent | DME | 100 mL | COCCOC | C4H10O2
product | 7-Fluoro-8-methyl-2-(2-methylpyridin-3-yl)quinoline-3-carbaldehyde | 9.07 g, 90% | FC1=CC=C2C=C(C(=NC2=C1C)C=1C(=NC=CC1)C)C=O | C17H13FN2O
